US07968592B2
4-(3,4-diChloro-benzyloxy)-3-methyl-benzaldehyde
0.5M solution of 4-chloromethyl-1,2-dichloro-benzene (1.55 g, 8.0 mmol) in DMF was added dropwise to a suspension of 4-hydroxy-3-methyl-benzaldehyde (990 mg, 7.3 mmol), K2CO3 (1.51 g, 11 mmol) and KI (120 mg, 0.73 mmol) in DMF (100 ml). The reaction mixture was treated as described in Example 6. The residue was purified on silica gel, obtaining 2.15 g of the title compound in a quantitative yield.

reactant | 4-chloromethyl-1,2-dichloro-benzene | 8.0 mmol, 1.55 g | ClCC1=CC(=C(C=C1)Cl)Cl | C7H5Cl3
reactant | 4-hydroxy-3-methyl-benzaldehyde | 7.3 mmol, 990 mg | OC1=C(C=C(C=O)C=C1)C | C8H8O2
reactant | K2CO3 | 11 mmol, 1.51 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-(3,4-diChloro-benzyloxy)-3-methyl-benzaldehyde | 2.15 g, quantitative yield | ClC=1C=C(COC2=C(C=C(C=O)C=C2)C)C=CC1Cl | C15H12Cl2O2
